### PR TITLE
feat: stopping time of loopy games

### PR DESCRIPTION
**Pull request by plp127**
- [x] Depends on: #279

### CODE REVIEW

File: CombinatorialGames/Game/Loopy/StoppingTime.lean [hunk 1]
```diff
@@ -0,0 +1,287 @@
...
+is interpreted as *refining* the approximation `(left, right)` to more closely match
+`(stoppingTimeRightLeft, stoppingTimeRightRight)` (which is its only fixpoint).
+The induction principle says that if this refinement decreases the pair, it must be an
+overestimation, and the coinduction principle says that if this refinement increases the pair,
+it must be an underestimation.
+
+-/
+
+universe u v
+
```
Comment (vihdzp) [inline CombinatorialGames/Game/Loopy/StoppingTime.lean:43]: (If you have an open PR for any of these, you should link it in a comment)
```suggestion

/-! ### For Mathlib -/

```

File: CombinatorialGames/Game/Loopy/StoppingTime.lean [hunk 2]
```diff
@@ -0,0 +1,287 @@
...
+instance WithTop.succAddOrder {α : Type*}
+    [One α] [Add α] [PartialOrder α] [SuccAddOrder α] [NoMaxOrder α]
+    [(a : α) → Decidable (Order.succ a = a)]  :
+    SuccAddOrder (WithTop α) where
+  succ_eq_add_one x := by
+    cases x with
+    | top => simp [SuccOrder.succ]
+    | coe => simp [SuccOrder.succ, ← WithTop.coe_one, ← WithTop.coe_add, ← Order.succ_eq_add_one]
+
+namespace LGame
```
Comment (vihdzp) [inline CombinatorialGames/Game/Loopy/StoppingTime.lean]: If everything will be noncomputable, why not do this?
```suggestion
noncomputable section
namespace LGame
```

File: CombinatorialGames/Game/Loopy/StoppingTime.lean [hunk 3]
```diff
@@ -0,0 +1,287 @@
...
+
+private noncomputable
+def stoppingTimeLeftApprox : (LGame.{u} → WithTop NatOrdinal.{u}) →o
```
Comment (vihdzp) [inline CombinatorialGames/Game/Loopy/StoppingTime.lean]: I know that this is a private definition, but it's an important one so I think it deserves a docstring. How about:
```suggestion
/-- Refines the approximations for the left stopping times. `stoppingTimeLeftLeft` is defined as the unique fixed point of this function. -/
private noncomputable def stoppingTimeLeftApprox : (LGame.{u} → WithTop NatOrdinal.{u}) →o
```

File: CombinatorialGames/Game/Loopy/StoppingTime.lean [hunk 4]
```diff
@@ -0,0 +1,287 @@
...
+private noncomputable
+def stoppingTimeRightApprox : (LGame.{u} → WithTop NatOrdinal.{u}) →o
+    (LGame.{u} → WithTop NatOrdinal.{u}) where
+  toFun f x := ⨅ y ∈ x.rightMoves, ⨆ i ∈ y.leftMoves, f i + 1
+  monotone' := monotone_lam fun _ =>
+    Monotone.iInf' fun _ => Monotone.iInf' fun _ => Monotone.iSup' fun i => Monotone.iSup' fun _ =>
+      add_right_mono.comp (Function.monotone_eval i)
+
+private
+theorem eq_of_finite_left {x} (hx : stoppingTimeLeftApprox x = x)
```
Comment (vihdzp) [inline CombinatorialGames/Game/Loopy/StoppingTime.lean]: a) This name is confusing, even for a private theorem - would you really call an arbitrary ordinal "finite" just because it isn't `⊤`? How about `eq_of_left_ne_top`?
b) I think you can split up the lemma:
```lean 4
private theorem stoppingTimeLeftLeft_mem_stoppingTimeLeftRight_image'
    {x : LGame} (h : x.leftMoves.Nonempty) : 
    stoppingTimeLeftApprox.lfp x ∈
      (fun y ↦ ⨆ i ∈ y.rightMoves, stoppingTimeLeftApprox.lfp i + 1) '' x.leftMoves :=
  sorry 
```
You prove this under the weaker assumption `stoppingTimeLeftApprox.lfp x ≠ ⊤`, but it should be true under this more general assumption. The results in #185 should help you. You should then of course make this theorem public as
```lean 4
theorem stoppingTimeLeftLeft_mem_stoppingTimeLeftRight_image
    {x : LGame} (h : x.leftMoves.Nonempty) : 
    stoppingTimeLeftLeft x ∈ stoppingTimeLeftRight '' x.leftMoves :=
  sorry 
```
once you have the appropriate definitions.
c) What's with putting `private` in a previous line? Is that a new style guidance? I've only ever seen `private` and `noncomputable` in the same line as `theorem` before literally yesterday, where I saw another PR do it too.

File: CombinatorialGames/Game/Loopy/StoppingTime.lean [hunk 5]
```diff
@@ -0,0 +1,287 @@
...
+  congr! 4 with k hk
+  apply ihx
+  rw [← hu]
+  refine lt_of_lt_of_le ?_ (le_iSup₂ k hk)
+  rw [← Order.succ_eq_add_one, Order.lt_succ_iff_not_isMax]
+  refine mt (IsMax.mono · ?_) hli
+  rw [← hu]
+  apply le_iSup₂_of_le k hk
+  rw [← Order.succ_eq_add_one]
+  exact Order.le_succ _
```
Comment (vihdzp) [inline CombinatorialGames/Game/Loopy/StoppingTime.lean]: We should have `Order.le_add_one`, you can add this as a "TODO: upstream to mathlib" lemma.
```lean 4
theorem Order.le_add_one {α} [One α] [Add α] [Preorder α] [SuccAddOrder α] (x : α) : x ≤ x + 1 := by
  rw [← Order.succ_eq_add_one]
  exact Order.le_succ x
```

File: CombinatorialGames/Game/Loopy/StoppingTime.lean [hunk 6]
```diff
@@ -0,0 +1,287 @@
...
+  rw [Set.mem_image] at hk
+  obtain ⟨u, hui, hu⟩ := hk
+  rw [← hu, ← hx]
+  apply iInf₂_le_of_le u hui
+  apply ge_of_eq
+  congr! 4 with k hk
+  apply ihx
+  rw [← hu]
+  refine lt_of_lt_of_le ?_ (le_iSup₂ k hk)
+  rw [← Order.succ_eq_add_one, Order.lt_succ_iff_not_isMax]
```
Comment (vihdzp) [inline CombinatorialGames/Game/Loopy/StoppingTime.lean]:
```suggestion
  rw [Order.lt_add_one_iff_not_isMax]
```

File: CombinatorialGames/Game/Loopy/StoppingTime.lean [hunk 7]
```diff
@@ -0,0 +1,287 @@
...
+theorem lfp_eq_gfp_right : stoppingTimeRightApprox.lfp = stoppingTimeRightApprox.gfp := by
+  ext i
+  by_cases hi : stoppingTimeRightApprox.lfp i = ⊤
+  · exact le_antisymm (stoppingTimeRightApprox.lfp_le_gfp i) (le_top.trans_eq hi.symm)
+  · exact eq_of_finite_right stoppingTimeRightApprox.isFixedPt_gfp hi
+
+/--
+The ordinal corresponding to the time it takes for left to force a win going first,
+counted in right moves.
+-/
```
Comment (vihdzp) [inline CombinatorialGames/Game/Loopy/StoppingTime.lean]: Excuse the bikeshedding, but this is how we've done other comments in the repo.
```suggestion
/-- The ordinal corresponding to the time it takes for left to force a win going first,
counted in right moves. -/
```

File: CombinatorialGames/Game/Loopy/StoppingTime.lean [hunk 8]
```diff
@@ -0,0 +1,287 @@
...
+    (hr : ∀ x, right x ≤ ⨆ y ∈ x.rightMoves, left y + 1) :
+    left ≤ stoppingTimeLeftLeft ∧ right ≤ stoppingTimeLeftRight := by
+  have ul : left ≤ stoppingTimeLeftApprox left :=
+    fun x ↦ (hl x).trans (iInf₂_mono fun y _ ↦ hr y)
+  unfold stoppingTimeLeftRight stoppingTimeLeftLeft
+  simp_rw [lfp_eq_gfp_left]
+  apply stoppingTimeLeftApprox.le_gfp at ul
+  exact ⟨ul, fun x ↦ (hr x).trans (iSup₂_mono fun y j ↦ add_right_mono (ul y))⟩
+
+theorem stoppingTimeRigh_induction (left right : LGame.{u} → WithTop NatOrdinal.{u})
```
Comment (vihdzp) [inline CombinatorialGames/Game/Loopy/StoppingTime.lean]:
```suggestion
theorem stoppingTimeRight_induction (left right : LGame.{u} → WithTop NatOrdinal.{u})
```

File: CombinatorialGames/Game/Loopy/StoppingTime.lean [hunk 9]
```diff
@@ -0,0 +1,287 @@
...
+Authors: Aaron Liu
+-/
+import CombinatorialGames.Game.Loopy.Basic
+import CombinatorialGames.Game.IGame
+import CombinatorialGames.NatOrdinal
+
+/-!
+# Stopping time
+
+The stopping time of a game is an ordinal which denotes how long the opponent can prolong the game.
```
Comment (vihdzp) [inline CombinatorialGames/Game/Loopy/StoppingTime.lean]: The docstring should mention "game value" somewhere, since this is what this value seems to be called in the case of infinite chess (with of course, a clarification that this is *not* the same as `Game.mk`).

File: CombinatorialGames/Game/Loopy/StoppingTime.lean (hunk 4 above)
Comment (plp127) [reply CombinatorialGames/Game/Loopy/StoppingTime.lean]: 1) I think the reasoning was that all the play starting at the position lasts for finite amount of moves
2) I will take a look later
3) I think it used to be `private noncomputable` which is long enough to get a new line but then it became a theorem.

File: CombinatorialGames/Game/Loopy/StoppingTime.lean [hunk 10]
```diff
@@ -0,0 +1,283 @@
...
+  `right x ≤ ⨅ y ∈ x.rightMoves, left y` hold for all `x` (the pair `(left, right)` is
+  *smaller* then its refinement), then `left` and `right` are *underapproximations*
+  to `stoppingTimeLeftLeft` and `stoppingTimeLeftRight`.
+The function `(left, right) ↦ (x ↦ ⨆ y ∈ x.leftMoves, right y + 1, x ↦ ⨅ y ∈ x.rightMoves, left y`,
+is interpreted as *refining* the approximation `(left, right)` to more closely match
+`(stoppingTimeRightLeft, stoppingTimeRightRight)` (which is its only fixpoint).
+The induction principle says that if this refinement decreases the pair, it must be an
+overestimation, and the coinduction principle says that if this refinement increases the pair,
+it must be an underestimation.
+
```
Comment (vihdzp) [inline CombinatorialGames/Game/Loopy/StoppingTime.lean:39]:
```suggestion
```

File: CombinatorialGames/Game/Loopy/StoppingTime.lean [hunk 11]
```diff
@@ -0,0 +1,283 @@
...
+  `⨆ y ∈ x.leftMoves, stoppingTimeRightRight y + 1`, which is the supremum of the stopping times of
+  all of left's options, plus one (since left makes a move).
+- `stoppingTimeRightRight x`: the time it takes for right to force a win going first on `x`.
+  If right cannot force a win, then the stopping time is `⊤`. It is equal to
+  `⨅ y ∈ x.rightMoves, stoppingTimeRightLeft y`, which is the stopping time of
+  right's best option (the one that stops the fastest).
+
+These stopping times satisfy both an induction principle and a coinduction principle.
+
+For left stopping times,
```
Comment (vihdzp) [inline CombinatorialGames/Game/Loopy/StoppingTime.lean]: I think this reads a bit nicer (likewise for the right stopping times)
```suggestion
For the left stopping times,
```

File: CombinatorialGames/Game/Loopy/StoppingTime.lean [hunk 12]
```diff
@@ -0,0 +1,283 @@
...
+  (congrArg Monotone (funext (@iInf_apply _ _ _ _ _))).mp (Monotone.iInf hf)
+
+theorem Monotone.iSup' {α β : Type*} {ι : Sort*} [Preorder α] [CompleteLattice β] {f : ι → α → β}
+    (hf : ∀ (i : ι), Monotone (f i)) : Monotone (fun x => ⨆ i, f i x) :=
+  (congrArg Monotone (funext (@iSup_apply _ _ _ _ _))).mp (Monotone.iSup hf)
+
+theorem OrderHom.lfp_le_gfp {α : Type*} [CompleteLattice α] (f : α →o α) : f.lfp ≤ f.gfp :=
+  f.lfp_le_fixed f.isFixedPt_gfp
+
+instance WithTop.succAddOrder {α : Type*}
```
Comment (vihdzp) [inline CombinatorialGames/Game/Loopy/StoppingTime.lean]: This is in the `Mathlib.WithTop` file.

**Comment by vihdzp** [comment]
Can you merge master? I think that should fix the failure.

File: CombinatorialGames/Game/Loopy/StoppingTime.lean [hunk 13]
```diff
@@ -0,0 +1,171 @@
...
+-/
+import CombinatorialGames.Game.Loopy.Basic
+import CombinatorialGames.Game.IGame
+import CombinatorialGames.NatOrdinal.Basic
+import CombinatorialGames.Mathlib.WithTop
+
+/-!
+# Stopping time
+
+For `p q : Player` and `x : LGame.{u}`, `stoppingTime p q x : WithTop NatOrdinal.{u}` is called
```
Comment (vihdzp) [inline CombinatorialGames/Game/Loopy/StoppingTime.lean]: I think writing explicit universes just makes the description harder to read.
```suggestion
For `p q : Player` and `x : LGame`, `stoppingTime p q x : WithTop NatOrdinal` is called
```

File: CombinatorialGames/Game/Loopy/StoppingTime.lean [hunk 14]
```diff
@@ -0,0 +1,171 @@
...
+The lemma `stoppingTime_of_eq` characterizes the behavior of `stoppingTime`
+when it is `p`'s turn to move, and
+the lemma `stoppingTime_of_ne` characterizes the behavior of `stoppingTime`
+when it is `-p`'s turn to move.
+
+`stoppingTime p : Player → LGame.{u} → WithTop NatOrdinal.{u}` is the unique fixed point of the map
+`val ↦ (p, x ↦ ⨅ y ∈ x.moves p, val (-p) y; -p, x ↦ ⨆ y ∈ x.moves (-p), stoppingTime p y + 1)`.
+It therefore satisfies both an induction and a coinduction principle,
+given by `stoppingTime_induction` and `stoppingTime_coinduction`.
+`stoppingTime_induction` says that any other `val : Player → LGame.{u} → WithTop NatOrdinal.{u}`
```
Comment (vihdzp) [inline CombinatorialGames/Game/Loopy/StoppingTime.lean]:
```suggestion
`stoppingTime_induction` says that any other `val : Player → LGame → WithTop NatOrdinal`
```

File: CombinatorialGames/Game/Loopy/StoppingTime.lean [hunk 15]
```diff
@@ -0,0 +1,171 @@
...
+decreased by this map must be bigger than `stoppingTime`, and
+`stoppingTime_coinduction` says that any other `val : Player → LGame.{u} → WithTop NatOrdinal.{u}`
```
Comment (vihdzp) [inline CombinatorialGames/Game/Loopy/StoppingTime.lean]:
```suggestion
`stoppingTime_coinduction` says that any other `val : Player → LGame → WithTop NatOrdinal`
```

File: CombinatorialGames/Game/Loopy/StoppingTime.lean [hunk 16]
```diff
@@ -0,0 +1,171 @@
...
+The stopping times of the positions for `-p` will then spell out a
+strictly decreasing sequence of ordinals, which must eventually reach `0`,
+at which point `-p` will have no moves left.
+The lemma `stoppingTime_of_eq` characterizes the behavior of `stoppingTime`
+when it is `p`'s turn to move, and
+the lemma `stoppingTime_of_ne` characterizes the behavior of `stoppingTime`
+when it is `-p`'s turn to move.
+
+`stoppingTime p : Player → LGame.{u} → WithTop NatOrdinal.{u}` is the unique fixed point of the map
+`val ↦ (p, x ↦ ⨅ y ∈ x.moves p, val (-p) y; -p, x ↦ ⨆ y ∈ x.moves (-p), stoppingTime p y + 1)`.
```
Comment (vihdzp) [inline CombinatorialGames/Game/Loopy/StoppingTime.lean]: Is this semicolon supposed to be a comma? It's a bit confusing, considering that Lean syntax already uses the semicolon for something else.

**Review by vihdzp — COMMENTED** [review]
The code looks really good! Give me a bit to try and golf it.

File: CombinatorialGames/Game/Loopy/StoppingTime.lean (hunk 16 above)
Comment (plp127) [reply CombinatorialGames/Game/Loopy/StoppingTime.lean]: I don't really know what to put here, given that Lean doesn't have any syntax for defining a function by casing on whether `q` is `p` or `-p`. Since I already used a comma in `p, x ↦ ...` I decided I have to use a different punctuation mark here.

File: CombinatorialGames/Game/Loopy/StoppingTime.lean [hunk 17]
```diff
@@ -0,0 +1,171 @@
...
+    fun x ↦ (hp x).trans (iInf₂_mono fun y _ ↦ hnp y)
+  intro q
+  apply (stoppingTimeApprox p).le_gfp at up
+  unfold stoppingTime
+  simp_rw [lfp_eq_gfp]
+  split_ifs with hq
+  · cases hq
+    exact up
+  · cases Player.neg_eq_of_ne hq
+    exact fun x ↦ (hnp x).trans (iSup₂_mono fun y j ↦ add_left_mono (up y))
```
Comment (vihdzp) [inline CombinatorialGames/Game/Loopy/StoppingTime.lean]:
```suggestion
    exact fun x ↦ (hnp x).trans (iSup₂_mono fun y j ↦ add_left_mono (up y))

end LGame
end
```

File: CombinatorialGames/Game/Loopy/StoppingTime.lean (hunk 16 above)
Comment (vihdzp) [reply CombinatorialGames/Game/Loopy/StoppingTime.lean]: `if p = q then x else y`?

File: CombinatorialGames/Game/Loopy/StoppingTime.lean [hunk 18]
```diff
@@ -0,0 +1,171 @@
...
+  apply ihx
+  rw [← hu]
+  refine lt_of_lt_of_le ?_ (le_iSup₂ k hk)
+  rw [← Order.succ_eq_add_one, Order.lt_succ_iff_not_isMax]
+  refine mt (IsMax.mono · ?_) hli
+  rw [← hu]
+  apply le_iSup₂_of_le k hk
+  rw [← Order.succ_eq_add_one]
+  exact Order.le_succ _
+termination_by wellFounded_lt.wrap ((stoppingTimeApprox p).lfp i)
```
Comment (vihdzp) [inline CombinatorialGames/Game/Loopy/StoppingTime.lean]: This is as far as i could golf:
```suggestion
private theorem eq_of_finite (p : Player) {x} (hx : stoppingTimeApprox p x = x)
    {i : LGame.{u}} (hi : (stoppingTimeApprox p).lfp i ≠ ⊤) :
    (stoppingTimeApprox p).lfp i = x i := by
  have ihx j (hj : (stoppingTimeApprox p).lfp j < (stoppingTimeApprox p).lfp i) :
      (stoppingTimeApprox p).lfp j = x j :=
    eq_of_finite p hx (hj.trans (lt_top_iff_ne_top.2 hi)).ne
  have hli := mt isMax_iff_eq_top.1 hi
  apply ((OrderHom.isLeast_lfp _).right hx i).antisymm
  have hg : IsGLB _ (stoppingTimeApprox p (stoppingTimeApprox p).lfp i) := isGLB_biInf
  rw [(stoppingTimeApprox p).isFixedPt_lfp] at hg
  obtain ⟨u, hui, hu⟩ := hg.mem_of_not_isPredPrelimit (mt Order.IsPredPrelimit.isMax' hli)
  rw [← hx]
  rw [← hu] at ⊢ ihx hli
  apply iInf₂_le_of_le u hui (ge_of_eq _)
  congr! 4 with k hk
  apply ihx _ <| (le_iSup₂ k hk).trans_lt' _
  rw [← Order.succ_eq_add_one, Order.lt_succ_iff_not_isMax]
  exact mt (IsMax.mono · ((le_iSup₂ k hk).trans' (le_add_of_nonneg_right zero_le_one))) hli
termination_by wellFounded_lt.wrap ((stoppingTimeApprox p).lfp i)
```
Of course, this depends on a missing lemma:
```lean 4
theorem Order.IsPredPrelimit.isMax' {α : Type*} [Preorder α] [SuccOrder α] {a : α}
    (h : IsPredPrelimit a) : IsMax a := by
  contrapose! h
  rw [not_isPredPrelimit_iff_exists_covBy]
  exact ⟨_, Order.covBy_succ_of_not_isMax h⟩
```

File: CombinatorialGames/Game/Loopy/StoppingTime.lean (hunk 9 above)
Comment (plp127) [reply CombinatorialGames/Game/Loopy/StoppingTime.lean]: ahh I can't figure out how to include this into the docstring without sounding weird

Comment (vihdzp) [reply CombinatorialGames/Game/Loopy/StoppingTime.lean]: The stopping time of a game (sometimes incorrectly called a game value) is...

Comment (plp127) [reply CombinatorialGames/Game/Loopy/StoppingTime.lean]: But it's not incorrect??? And it's also not exactly the same thing

Comment (vihdzp) [reply CombinatorialGames/Game/Loopy/StoppingTime.lean]: Alternatively called?

**Comment by vihdzp** [comment]
Don't want to bikeshed on docstrings, we can fix them later if need be.
